US05430047
Step A: Preparation of 3-[3-(2,5-Dimethoxyphenyl)-3-oxo-1-propenyl]-benzoic acid
To a solution of 3-formylbenzoic acid (2.0 g, 13.3 mmol) and sodium hydroxide (1.32 g, 33 mmol) in 400 mL of ethanol/water (1:1) is added 2,5-dimethoxyacetophenone (2.4 g, 13.3 mmol) and the resulting solution is stirred overnight at room temperature. The mixture is acidified with concentrated hydrochloric acid and the resulting solid is collected by filtration after diluting the mixture with water (200 mL) to provide 2.9 g of the title compound; mp 152°-155° C.

reactant | 3-formylbenzoic acid | 13.3 mmol, 2.0 g | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | sodium hydroxide | 33 mmol, 1.32 g | [OH-].[Na+]
reactant | 2,5-dimethoxyacetophenone | 13.3 mmol, 2.4 g | CC(=O)C1=C(C=CC(=C1)OC)OC | C10H12O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | 400 mL | C(C)O.O
product | 3-[3-(2,5-Dimethoxyphenyl)-3-oxo-1-propenyl]-benzoic acid | 2.9 g | COC1=C(C=C(C=C1)OC)C(C=CC=1C=C(C(=O)O)C=CC1)=O | C18H16O5
